US06555563B1
1-[4-(Methylthio)phenyl]-2-(2-isopropyl-1,3,4-thiadiazol-5-yl)-4-(trifluoromethyl)-1-H-imidazole
A mixture of 4-hydroxy-1-[4-(methylthio)phenyl]-2-[2-(isopropyl)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-4,5-dihydro-1H-imidazole (0.361 g, 0.90 mmol) and p-toluenesulfonic acid monohydrate (35 mg) in toluene (50 mL) was heated to reflux for 1 hour. After aqueous work up, the product (0.26 g, 75%) was isolated as a white solid; 1H NMR δ (DMSO-d6) 8.37 (1H, s), 7.50 (2H, d, J=8.3 Hz), 7.38 (2H, d, J=8.6 Hz), 3.42 (1H, m), 2.55 (3H, s), 1.35 (6H, d, J=6.7 Hz); 13C NMR δ (DMSO-d6) 177.4, 157.6, 140.3, 138.5, 133.2, 130.9(q), 127.2, 126.4, 125.7, 122.5(q), 29.9, 22.7, 14.4.

reactant | 4-hydroxy-1-[4-(methylthio)phenyl]-2-[2-(isopropyl)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-4,5-dihydro-1H-imidazole | 0.90 mmol, 0.361 g | OC1(N=C(N(C1)C1=CC=C(C=C1)SC)C1=NN=C(S1)C(C)C)C(F)(F)F | C16H17F3N4OS2
reactant | p-toluenesulfonic acid monohydrate | 35 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(Methylthio)phenyl]-2-(2-isopropyl-1,3,4-thiadiazol-5-yl)-4-(trifluoromethyl)-1-H-imidazole | 0.26 g, 75% | CSC1=CC=C(C=C1)N1C(=NC(=C1)C(F)(F)F)C1=NN=C(S1)C(C)C | C16H15F3N4S2
